US06177452B1
A mixture of methyl 4-(4-chlorobenzoyl)-4-phenoxycarbonyloxybutyrate (61.2 g), ammonium acetate (62.2 g) and acetic acid (300 ml) was stirred under reflux for 1.5 hours. The reaction mixture was concentrated, water was added to the resulting residue, and the crystals thus precipitated were collected by filtration. These were recrystallized from methanol to give colorless needles of methyl 3-[4-(4-chlorophenyl)-2-oxo-4-oxazolin-5-yl]propionate (36.6 g, 79%). m.p. 147-148° C.

reactant | methyl 4-(4-chlorobenzoyl)-4-phenoxycarbonyloxybutyrate | 61.2 g | ClC1=CC=C(C(=O)C(CCC(=O)OC)OC(=O)OC2=CC=CC=C2)C=C1 | C19H17ClO6
reactant | ammonium acetate | 62.2 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | methyl 3-[4-(4-chlorophenyl)-2-oxo-4-oxazolin-5-yl]propionate | 36.6 g, 79% | ClC1=CC=C(C=C1)C=1NC(OC1CCC(=O)OC)=O | C13H12ClNO4
